US04906621
A solution of 4-pyridylacetic acid in 500 ml of anhydrous ethanol containing 75 ml of concentrated sulfuric acid is refluxed 18 hours. The solution is cooled to 0° an neutralized by addition of sodium hydroxide solution and saturated aqueous sodium carbonate. Extraction with ethyl acetate yields on concentration in vacuo ethyl 4-pyridylacetate.

reactant | 4-pyridylacetic acid | N1=CC=C(C=C1)CC(=O)O | C7H7NO2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethanol | 500 ml | C(C)O | C2H6O
product | ethyl 4-pyridylacetate | N1=CC=C(C=C1)CC(=O)OCC | C9H11NO2
